US03978066
5-[3-(Dimethylamino)propylamino]-1,3-dihydropyrrolo[4,3,2-de]isoquinoline [1, R1 = NH(CH3)2N(CH2)3 ]
A mixture of 5-ethoxy-1,3-dihydropyrrolo[4,3,2-de]isoquinoline (5 g, 25 mmoles), described in Example 5, ethanol (50 ml), 3-(dimethylamino)propylamine (2.7 g, 26.4 mmoles) and conc. HCl (12.5 ml, 29 mmoles) in 50 ml of ethanol is heated at reflux for 7 hours. Some ethanol is removed by distillation, then ether and saturated HCl in ethanol (2 ml) is added. The precipitate is collected. Recrystallization for ethanol-ethyl acetate (a small amount of HCl in ethanol being added) gives the hydrochloride salt of the title compound, mp 289° - 290°C.

reactant | 5-ethoxy-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | 25 mmoles, 5 g | C(C)OC1=NCC=2C=3C(=CC=CC13)NC2 | C12H12N2O
reactant | 3-(dimethylamino)propylamine | 26.4 mmoles, 2.7 g | CN(CCCN)C | C5H14N2
reactant | HCl | 29 mmoles, 12.5 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-[3-(Dimethylamino)propylamino]-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | CN(CCCNC1=NCC=2C=3C(=CC=CC13)NC2)C | C15H20N4
